US04204071
3-Fluorophenylacetaldehyde is converted into ethyl 4-(3-fluorophenyl)-2-isopropyl-3-butenoate using the reaction of Example 9. The ester is hydrolyzed using KOH/MeOH/H2O to 4-(3-fluorophenyl)-2-isopropyl-3-butenoic acid, which is converted to the acid chloride and reacted with α-cyano-m-phenoxybenzyl alcohol to yield α-cyano-m-phenoxybenzyl 4-(3-fluorophenyl)-2-isopropyl-3-butenoate, MS m/e 429 (M+).

reactant | 3-Fluorophenylacetaldehyde | FC=1C=C(C=CC1)CC=O | C8H7FO
reactant | ethyl 4-(3-fluorophenyl)-2-isopropyl-3-butenoate | FC=1C=C(C=CC1)C=CC(C(=O)OCC)C(C)C | C15H19FO2
reactant | KOH MeOH H2O | [OH-].[K+].CO.O
reactant | 4-(3-fluorophenyl)-2-isopropyl-3-butenoic acid | FC=1C=C(C=CC1)C=CC(C(=O)O)C(C)C | C13H15FO2
reactant | α-cyano-m-phenoxybenzyl alcohol | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
product | α-cyano-m-phenoxybenzyl 4-(3-fluorophenyl)-2-isopropyl-3-butenoate | FC=1C=C(C=CC1)C=CC(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C(C)C | C27H24FNO3
